* FILE: MMI_TSBUFE.sp


* SPICE netlist for "MMI_TSBUFE" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_TSBUFE en enb in out 
M_0 out N2 vdd vdd p W='14.72*1u' L=lp_min  
M_1_1 out N1 gnd gnd n W='7.36*1u' L=ln_min  
M_2_1 N1 in gnd gnd n W='2.48*1u' L=ln_min  
M_3_1 N1 enb gnd gnd n W='1.24*1u' L=ln_min  
M_4_1 N2 en vdd vdd p W='2*1u' L=lp_min   
M_5_1 N1 enb N2 vdd p W='2*1u' L=lp_min   
M_6_1 N2 in vdd vdd p W='4*1u' L=lp_min   
M_7_1 N2 en N1 gnd n W='1.24*1u' L=ln_min  
.ENDS	$ MMI_TSBUFE

